US07919508B2
N-((1R,3S)-5-Isopropoxy-6-methyl-3-(4-piperidinyl)-1-isochromanylmethyl)formamide
Dissolve (S)-2-(2-Isopropoxy-3-methylphenyl)-1-(4-piperidinyl)ethanol (21.5 g, 78 mmol), N-(2,2,-dimethoxyethyl)formamide (15.5 g, 117 mmol) and BF3□Et2O (66.1 g, 466 mmol) in CH2Cl2 (350 mL). Heat the solution to reflux for 3 hr and then allow to stand 15 hr at room temperature. Evaporate the solvent and dissolve the residue in CH2Cl2. Treat the resulting solution with 50% aqueous NaOH to obtain a pH of 13. Separate the phases and extract the aqueous phase with CH2Cl2. Combine the organic phases, wash with brine and dry over MgSO4. Evaporate the solvent to afford a residue. Purify the residue by chromatography over SiO2 using CHCl3:2M NH3/MeOH (8:2). Evaporate the product-containing fractions and triturate with 1:1 Et2O:heptane to afford a crystalline solid; 1H-NMR (CDCl3) δ 8.2, 7.9 (2s, 1H), 7.0-6.7 (m, 2H), 6.2 (m, 1H), 4.8 (m, 1H). 4.2 (m, 1H), 4.1 (m, 1H), 3.3 (m, 2H), 3.2 (m, 2H), 2.9 (m, 1H), 2.7, (m, 2H), 2.5 (m, 2H), 2.2 (s, 3H), 2.0-1.4 (m, 5H), 1.3-1.2 (2d, 6H).

reactant | (S)-2-(2-Isopropoxy-3-methylphenyl)-1-(4-piperidinyl)ethanol | 78 mmol, 21.5 g | C(C)(C)OC1=C(C=CC=C1C)C[C@H](O)C1CCNCC1 | C17H27NO2
reactant | N-(2,2,-dimethoxyethyl)formamide | 117 mmol, 15.5 g | COC(CNC=O)OC | C5H11NO3
reactant | BF3 | 466 mmol, 66.1 g | B(F)(F)F | BF3
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | N-((1R,3S)-5-Isopropoxy-6-methyl-3-(4-piperidinyl)-1-isochromanylmethyl)formamide | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCNCC1 | C20H30N2O3
